US04597902
2-(Phenylsulfonyl)ethanamine hydrochloride
A solution of 32.3 g (0.102 mole) of 2-[2-(phenylsulfonyl)ethyl]-1H-isoindole-1,3-(2H)-dione and 11.8 g (0.2 mole) of 85% hydrazine hydrate in 500 ml of absolute ethanol was refluxed for 6 hr. The reaction mixture was cooled to room temperature, filtered and concentrated. The concentrate was dissolved in chloroform and extracted with 5% sodium hydroxide. The chloroform layer was dried and evaporated to give a clear oil. The oil, the free base of the title compound, was reacted with ethereal hydrogen chloride. Recrystallization of the precipitated salt from methanol-diethyl ether gave white crystalline product, m.p. 151°-154° C. in 40.5% yield.

reactant | 2-[2-(phenylsulfonyl)ethyl]-1H-isoindole-1,3-(2H)-dione | 0.102 mole, 32.3 g | C1(=CC=CC=C1)S(=O)(=O)CCN1C(C2=CC=CC=C2C1=O)=O | C16H13NO4S
reactant | hydrazine hydrate | 0.2 mole, 11.8 g | O.NN
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(Phenylsulfonyl)ethanamine hydrochloride | 40.5% yield | Cl.C1(=CC=CC=C1)S(=O)(=O)CCN | InChI=1S/C8H11NO2S.ClH/c9-6-7-12(10,11)8-4-2-1-3-5-8;/h1-5H,6-7,9H2;1H
